US07582643B2
Step C: tert-Butyl[(3R)-1-(6-Methyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl)pyrrolidin-3-yl]carbamate
3-[(Dimethylamino)methylene]-1-methylpiperidin-4-one (9.04 g, 53.7 mmol) and tert-butyl {(3R)-1-[amino(imino)methyl]pyrrolidin-3-yl}carbamate hydrochloride (14.2 g, 53.7 mmol) were dissolved in methanol (100 mL) and to this was added dropwise sodium methoxide (9.66 g of a 30% solution in methanol). The reaction mixture was refluxed for 3 hours and then cooled to room temperature. The reaction mixture was then evaporated to dryness, and the residue was treated with water (50 mL). The precipitate was separated by filtration, washed with water (25 mL) and diethyl ether (50 mL) and dried to give the title compound 10.43 g (yield 58%). LCMS (ES+) M+H 334. 1H NMR (DMSO-d6) 1.39 (s, 9H) 1.85 (m, 1H) 2.13 (m, 1H) 2.33 (s, 3H) 2.60 (m, 2H) 2.67 (m, 2H) 3.23-3.26 (m, 1H) 3.31-3.37 (m, 3H) 3.40-3.536 (m, 1H) 3.63 (m, 1H) 4.04 (br s, 1H) 7.20 (br s, 1H) 8.04 (s, 1H).

reactant | 3-[(Dimethylamino)methylene]-1-methylpiperidin-4-one | 53.7 mmol, 9.04 g | CN(C)C=C1CN(CCC1=O)C | C9H16N2O
reactant | tert-butyl {(3R)-1-[amino(imino)methyl]pyrrolidin-3-yl}carbamate hydrochloride | 53.7 mmol, 14.2 g | Cl.NC(N1C[C@@H](CC1)NC(OC(C)(C)C)=O)=N
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | tert-Butyl[(3R)-1-(6-Methyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-2-yl)pyrrolidin-3-yl]carbamate | 10.43 g, yield 58% | C(C)(C)(C)OC(N[C@H]1CN(CC1)C=1N=CC2=C(N1)CCN(C2)C)=O | C17H27N5O2
